US07365174B2
Preparation Method of 5-bromopyridine-3-carboxamide
In an amount of 555 mg of 5-bromonicotinoyl chloride was dissolved in 5.5 ml of tetrahydrofuran, added with 768 μl of 28% aqueous ammonia under ice cooling, stirred for 40 minutes, then warmed to room temperature, and further stirred at room temperature for 20 minutes. The reaction system was added with 15% brine, and extracted with tetrahydrofuran, and the organic layer was dried over anhydrous magnesium sulfate, and filtered. Then, the filtrate was concentrated under reduced pressure until about half amount of crystals were deposited, and added with ethyl acetate until the deposition of crystals was terminated, and the crystals were taken by filtration to obtain 374 mg of the title compound.

reactant | ammonia | 768 μl | N | H3N
reactant | 5-bromonicotinoyl chloride | 555 mg | BrC=1C=NC=C(C(=O)Cl)C1 | C6H3BrClNO
solvent | tetrahydrofuran | 5.5 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 5-bromopyridine-3-carboxamide | 374 mg | BrC=1C=C(C=NC1)C(=O)N | C6H5BrN2O
